US09290511B2
Tert-butyl-5-hydroxy-2-azabicyclo[2.2.1]heptane-2-carboxylate (1.5 g, 7.0 mmol) and tetrabutylammonium bromide (0.35 g, 0.70 mmol) were stirred in sodium hydroxide (10 M) (30 mL, 1600 mmol)/toluene (30 mL) and heated to 60° C. 2-(2-Bromoethoxy)tetrahydropyran (4.4 g, 21 mmol) was added in 4 portions over 2 hours and heating continued overnight. Further 2-(2-bromoethoxy)tetrahydropyran (1 eq) was added and the reaction heated for a further 3 hours. The reaction mixture was diluted with DCM, washed with water, dried over Na2SO4 and concentrated in vacuo to afford a yellow oil. The reaction mixture was purified by flash chromatography, eluting with DCM then 90/10 DCM/MeOH to afford tert-butyl-5-(2-tetrahydropyran-2-yloxyethoxy)-2-azabicyclo[2.2.1]heptane-2-carboxylate (1.08 g).

reactant | Tert-butyl-5-hydroxy-2-azabicyclo[2.2.1]heptane-2-carboxylate | 7.0 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1C2CC(C(C1)C2)O | C11H19NO3
reactant | sodium hydroxide | 1600 mmol, 10 M, 30 mL | [OH-].[Na+]
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-(2-Bromoethoxy)tetrahydropyran | 21 mmol, 4.4 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | 2-(2-bromoethoxy)tetrahydropyran | 1 eq | BrCCOC1OCCCC1 | C7H13BrO2
catalyst | tetrabutylammonium bromide | 0.70 mmol, 0.35 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl-5-(2-tetrahydropyran-2-yloxyethoxy)-2-azabicyclo[2.2.1]heptane-2-carboxylate | 1.08 g | C(C)(C)(C)OC(=O)N1C2CC(C(C1)C2)OCCOC2OCCCC2 | C18H31NO5
